US08557805B2
2-Methyl-1-(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)propan-2-ol
Ethyl(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (400 mg) was dissolved in tetrahydrofuran (10 mL), methylmagnesium bromide (1M tetrahydrofuran solution, 3.6 mL) was added and the mixture was stirred under ice-cooling for 30 min, and then at room temperature for 1 hr. To the reaction solution was added methylmagnesium bromide (1M tetrahydrofuran solution, 1.4 mL), and the mixture was stirred at room temperature for 1 hr. Methylmagnesium bromide (1M tetrahydrofuran solution, 1.4 mL) was further added, and the mixture was stirred at room temperature for 1 hr. Methylmagnesium bromide (1M tetrahydrofuran solution, 1.4 mL) was further added, and the mixture was stirred at room temperature for 1 hr. Moreover, methylmagnesium bromide (1M tetrahydrofuran solution, 1.4 mL) was added, and the mixture was stirred at room temperature for 1 hr. To the reaction solution was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (methanol:ethyl acetate:hexane=0:50:50 to 20:80:0, volume ratio), then basic silica gel column chromatography (methanol:ethyl acetate:hexane=0:50:50 to 10:90:0, volume ratio) to give the title compound as a yellow oil (81 mg, yield 21%). The obtained yellow oil was crystallized from diethyl ether-hexane and recrystallized from ethyl acetate-hexane to give pale-yellow crystals.

reactant | Ethyl(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 400 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC1=CC=C(C=C1)S(=O)(=O)C)OC1CCOCC1)=O | C27H30N2O7S2
reactant | methylmagnesium bromide | 1M, 3.6 mL | C[Mg]Br
reactant | methylmagnesium bromide | 1M, 1.4 mL | C[Mg]Br
reactant | Methylmagnesium bromide | 1M, 1.4 mL | C[Mg]Br
reactant | Methylmagnesium bromide | 1M, 1.4 mL | C[Mg]Br
reactant | methylmagnesium bromide | 1M, 1.4 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 2-Methyl-1-(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)propan-2-ol | 81 mg, yield 21% | CC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC1=CC=C(C=C1)S(=O)(=O)C)OC1CCOCC1)(C)O | C27H32N2O6S2
